US09334290B2
A mixture of 5-bromo-2-iodo-4-methylaniline (5.25 g, 16.8 mmol) and zinc cyanide (0.988 g, 8.41 mmol) in DMF (80 mL) was subjected to three evacuate-fill cycles with nitrogen. The mixture was treated with tetrakis(triphenylphosphine)palladium (0.972 g, 0.841 mmol) and heated at 90° C. overnight. The cooled mixture was diluted with EtOAc and washed sequentially with 10% aqueous LiCl (twice) and brine. The aqueous layers were extracted with EtOAc, and the combined organic layers were dried and concentrated. The residue was purified by column chromatography on silica gel, eluting with EtOAc-hexanes (sequentially 1%, 2.5%, 5% and 50%), to give a brown solid. The residue was further purified by trituration with MeOH to give three crops of solid. The filtrate was again purified by column chromatography on silica gel, eluting with EtOAc-hexanes (5%, then 10%). The resulting solid was combined with the other crops to provide 2-amino-4-bromo-5-methylbenzonitrile as a tan solid (2.95 g, 83% yield). Mass spectrum m/z 211, 213 (M+H)+.

reactant | 5-bromo-2-iodo-4-methylaniline | 16.8 mmol, 5.25 g | BrC=1C(=CC(=C(N)C1)I)C | C7H7BrIN
reactant | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | zinc cyanide | 8.41 mmol, 0.988 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 0.841 mmol, 0.972 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-amino-4-bromo-5-methylbenzonitrile | 2.95 g, 83% yield | NC1=C(C#N)C=C(C(=C1)Br)C | C8H7BrN2
